US09284302B2
A mixture of 4,6-dichloro-2-methylpyrimidine (505 mg, 3.1 mmol), 3,5-dimethyl-1H-1,2,4-triazole (300 mg, 3.1 mmol) and Cs2CO3 (1.54 g, 4.7 mmol) in THF (20 mL) was heated at reflux overnight. The mixture was filtered and the filtrate was concentrated to give 4-chloro-6-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-2-methylpyrimidine that was used without further purification. MS: m/z=224.1 (M+H).

reactant | 4,6-dichloro-2-methylpyrimidine | 3.1 mmol, 505 mg | ClC1=NC(=NC(=C1)Cl)C | C5H4Cl2N2
reactant | 3,5-dimethyl-1H-1,2,4-triazole | 3.1 mmol, 300 mg | CC1=NNC(=N1)C | C4H7N3
reactant | Cs2CO3 | 4.7 mmol, 1.54 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-chloro-6-(3,5-dimethyl-1H-1,2,4-triazol-1-yl)-2-methylpyrimidine | ClC1=NC(=NC(=C1)N1N=C(N=C1C)C)C | C9H10ClN5
